US07795247B2
Step 1: methyl 2-bromo-3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-1H-indole-6-carboxylate
NaH (1.5 eq, 60% dispersion in mineral oil) was added to a solution of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (prepared as described in published International Patent application WO 2004/065367, from commercially available methyl indole-6-carboxylate) in DMF (0.1 M) and once effervescence had subsided the solution was stirred at RT for a further 30 min. 2-bromomethyl-1,3-dioxolane (4 eq) and catalytic (0.025 eq) KI were then added and the mixture heated at 50° C. for 36 h. The reaction mixture was then allowed to cool to RT, quenched with aqueous HCl (1 N) and extracted with EtOAc. The organics were washed with aqueous HCl (1 N) (3×), water and brine before being dried over Na2SO4, filtered and the solvent evaporated in vacuo. Purification was by flash chromatography (10% EtOAc/PE) to give a pale yellow solid that was triturated with Et2O/PE) to afford the title compound as a white solid (69%); MS (ES+) m/z 422 (M+H)+, m/z 424 (M+H)+.

reactant | NaH | 1.5 eq | [H-].[Na+]
reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | methyl indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | 2-bromomethyl-1,3-dioxolane | 4 eq | BrCC1OCCO1 | C4H7BrO2
solvent | DMF | 0.1 M | CN(C)C=O | C3H7NO
product | methyl 2-bromo-3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-1H-indole-6-carboxylate | 69% | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC1OCCO1 | C20H24BrNO4
